US07589127B2
2-(aminomethyl)-3,5-di-tert-butylphenol hydrochloride
A finely powdered mixture of 5.2 g (25 mmol) of 3,5-di-tert-butylphenol and 3.15 g (25 mmol) of N-hydroxymethyl-2-chloroacetamide was added in portions to a vigorously stirred solution of 22.5 mL acetic acid and 2.5 mL (98%) sulfuric acid at 0-10° C. The reaction mixture was allowed to warm to room temperature over several hours, and stirring was maintained for a total of 16 hours. The reaction mixture was poured into ice-water, neutralized with saturated aqueous NaHCO3 solution and extracted into CH2Cl2. The organic extracts were combined, washed with brine, dried (Na2SO4), filtered and evaporated. The residue was purified on a silica gel flash chromatography column eluted with 15-30-50% EtOAc in hexane. Evaporation of the purified fractions and drying in vacuo afforded the title compound.

reactant | 3,5-di-tert-butylphenol | 25 mmol, 5.2 g | C(C)(C)(C)C=1C=C(C=C(C1)C(C)(C)C)O | C14H22O
reactant | N-hydroxymethyl-2-chloroacetamide | 25 mmol, 3.15 g | OCNC(CCl)=O | C3H6ClNO2
reactant | sulfuric acid | 2.5 mL | S(O)(O)(=O)=O | H2O4S
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | acetic acid | 22.5 mL | C(C)(=O)O | C2H4O2
product | 2-(aminomethyl)-3,5-di-tert-butylphenol hydrochloride | Cl.NCC1=C(C=C(C=C1C(C)(C)C)C(C)(C)C)O | InChI=1S/C15H25NO.ClH/c1-14(2,3)10-7-12(15(4,5)6)11(9-16)13(17)8-10;/h7-8,17H,9,16H2,1-6H3;1H
